US04207243
12.2 parts by weight of anhydrous iron-III chloride followed by 44.9 parts by weight of 85.5 percent strength by weight α-acetoxypropionaldehyde are added to a solution of 34.8 parts by weight of methyl acetoacetate in 36 parts by weight of methanol, during which addition the mixture rises to the boil. The mixture is then refluxed for a further 1-6 hours and, when it has cooled, is mixed with 80 parts by weight of water and 37.5 parts by weight of dichloroethane; the water phase is separated off and is extracted twice, each time with 25 parts by weight of dichloroethane. The dichloroethane is distilled off under atmospheric pressure and the product is then distilled under reduced pressure. 39 parts by weight of 2,5-dimethylfuran-3-carboxylic acid methyl ester of boiling point 92° C./26 mbar are obtained.

reactant | α-acetoxypropionaldehyde | C(C)(=O)OC(C=O)C | C5H8O3
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | methanol | CO | CH4O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 2,5-dimethylfuran-3-carboxylic acid methyl ester | COC(=O)C1=C(OC(=C1)C)C | C8H10O3
